US07994185B2
N-{5-[5-(2-Amino-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 51, Step B using N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide (0.120 g, 0.212 mmol) and ammonia (7 N solution in MeOH, 4.54 mL, 31.7 mmol) the title compound was obtained as a white solid (71 mg, 0.13 mmol, 60% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.80 (s, 1H), 8.06 (d, J=5.1 Hz, 1H), 7.45-7.71 (m, 3H), 7.34-7.45 (m, 2H), 7.23-7.34 (m, 1H), 6.80 (s, 2H), 6.19 (d, J=5.1 Hz, 1H), 3.88-4.03 (m, 2H), 3.40-3.56 (m, 2H), 3.21-3.31 (m, 1H), 1.92-2.07 (m, 2H), 1.63-1.82 (m, 2H). MS (ESI): 548.11 [M+H]+.

reactant | N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 0.212 mmol, 0.120 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1CCOCC1)C=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C24H18ClF3N4O3S2
reactant | ammonia | 31.7 mmol, 7 N, 4.54 mL | N | H3N
product | N-{5-[5-(2-Amino-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | NC1=NC=CC(=N1)C1=C(N=C(S1)C1CCOCC1)C=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C24H20F3N5O3S2
